US07893056B2
Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (0.988 g, 1.992 mmol) was dissolved in THF (10 mL). To this solution was added triethylamine (0.61 mL, 4.3765 mmol), followed by commercially available 2-aminomethyl thiazole hydrochloride (0.30 g, 1.992 mmol), which was suspended in THF (12 mL). The reaction was left to stir for 2 days during which time an additional 10 mL THF and 2-aminomethyl thiazole hydrochloride (0.061 g, 0.4049 mmol) were added to the reaction mixture. After 3 more days, the reaction mixture was diluted with water and extracted with ethyl acetate. The organics were dried (Na2SO4) and concentrated. The resulting crude material was purified by silica gel chromatography (0-100% ethyl acetate in hexanes) to provide tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate as a yellow oil (0.5826, 51%). LCMS: (M+H−3 Boc)+=375.0.

reactant | Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 1.992 mmol, 0.988 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | triethylamine | 4.3765 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminomethyl thiazole hydrochloride | 1.992 mmol, 0.30 g | Cl.NCC=1SC=CN1
reactant | 2-aminomethyl thiazole hydrochloride | 0.4049 mmol, 0.061 g | Cl.NCC=1SC=CN1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)NCC=1SC=CN1)Cl)C(=O)OC(C)(C)C | C23H32ClFN6O6S
